US04548932
A solution of 3(S)-[1(S)-ethoxycarbonyl-4-(4-piperidyl)butyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzoxazepine-5-acetic acid dihydrochloride (0.35 g) in 1N sodium hydroxide solution (8 ml) is allowed to stand for 30 minutes at room temperature. After addition of acetic acid (1.5 ml), the mixture is subjected to column chromatography on MCI gel (CHP 20P, 150-300μ, Mitsubishi Chemical) using water-methanol (2:1) as an eluent. The eluate is concentrated in vacuo and lyophilized to yield 3(S)-[1(S)-carboxy-4-(4-piperidyl)butyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzoxazepine-5-acetic acid (0.2 g) as colorless powder.

reactant | 3(S)-[1(S)-ethoxycarbonyl-4-(4-piperidyl)butyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzoxazepine-5-acetic acid dihydrochloride | 0.35 g | Cl.Cl.C(C)OC(=O)[C@H](CCCC1CCNCC1)N[C@H]1COC2=C(N(C1=O)CC(=O)O)C=CC=C2
reactant | acetic acid | 1.5 ml | C(C)(=O)O | C2H4O2
solvent | sodium hydroxide | 1N, 8 ml | [OH-].[Na+]
solvent | water methanol | O.CO
product | 3(S)-[1(S)-carboxy-4-(4-piperidyl)butyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzoxazepine-5-acetic acid | 0.2 g | C(=O)(O)[C@H](CCCC1CCNCC1)N[C@H]1COC2=C(N(C1=O)CC(=O)O)C=CC=C2 | C21H29N3O6
